US04803278
Preparation of 4-Ethyl-1,3-dihydro-5-[hydroxy(4-pyridyl)methyl]-2H-imidazol-2-one
In 100 ml water is dissolved 29.0 g (0.11 mol) of 1-(4-pyridyl)-1-hydroxy-2-amino-3-ketopentane dihydrochloride and 17.9 g (0.22 mol) of potassium cyanate. The solution is warmed to 50° C. for 10 minutes and then allowed to stand at room temperature for 10 hours, cooled and the solid collected to give the title compound; m.p. 234°-36°.

reactant | 1-(4-pyridyl)-1-hydroxy-2-amino-3-ketopentane dihydrochloride | 0.11 mol, 29.0 g | Cl.Cl.N1=CC=C(C=C1)C(C(C(CC)=O)N)O
reactant | potassium cyanate | 0.22 mol, 17.9 g | [O-]C#N.[K+]
solvent | water | 100 ml | O | H2O
product | 4-Ethyl-1,3-dihydro-5-[hydroxy(4-pyridyl)methyl]-2H-imidazol-2-one | C(C)C=1NC(NC1C(C1=CC=NC=C1)O)=O | C11H13N3O2
